US07956069B2
The preparation of tert-butyl 4-[(3aS,7aS)-3-methyl-2-oxooctahydro-1H-benzimidazol-1-yl]-1,4′-bipiperidine-1′-carboxylate
(3aS,7aS)-1-methyl-3-piperidin-4-yloctahydro-2H-benzimidazol-2-one (1.13 g, 4.75 mmol) was dissolved in MeOH (10 mL) and tert-butyl 4-oxopiperidine-1-carboxylate (1 g, 5.02 mmol) was then added. A solution containing sodium cyanoborohydride (0.49 g, 7.10 mmol) and ZnCl2 (0.38 g, 2.79 mmol) in MeOH (2 mL) was added and the mixture and stirred at room temperature overnight. The solvent was then removed under reduced pressure and the residue was dissolved in dichloromethane (150 mL). Organic layer was washed with 1N NaOH (10 mL) and brine (5 mL), dried and concentrated in vacuo. The residue was purified by column chromatography (dichloromethane-MeOH gradient) to provide the title compound as a white solid (1.6 g, 80%). MS (M+1): 421.4.

reactant | (3aS,7aS)-1-methyl-3-piperidin-4-yloctahydro-2H-benzimidazol-2-one | 4.75 mmol, 1.13 g | CN1C(N([C@@H]2[C@@H]1CCCC2)C2CCNCC2)=O | C13H23N3O
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 5.02 mmol, 1 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium cyanoborohydride | 7.10 mmol, 0.49 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
catalyst | ZnCl2 | 2.79 mmol, 0.38 g | [Cl-].[Cl-].[Zn+2]
product | tert-butyl 4-[(3aS,7aS)-3-methyl-2-oxooctahydro-1H-benzimidazol-1-yl]-1,4′-bipiperidine-1′-carboxylate | 1.6 g, 80% | CN1C(N([C@@H]2[C@@H]1CCCC2)C2CCN(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O | C23H40N4O3
